US04202893
A mixture of 2.22 g of the anti isomer of 2-(2-tritylamino-4-thiazolyl)-2-methoxyimino-acetic acid, 20 ml of dry tetrahyrofuran, 15 ml of methylene chloride and 0.55 ml of N-methyl-morpholine under argon was cooled to -20° C. and 0.65 ml of isobutyl chloroformate was added thereto. The mixture was stirred and was cooled to -35° C. and then a solution of 1.44 g of 7-amino-3-acetylthiomethyl-ceph-3-eme-4-carboxylic acid, 25 ml of methylene chloride and 1.4 ml of anhydrous triethylamine was added thereto. The mixture spontaneously heated up and the solvents were removed. The residue was taken up in methylene chloride and 7 ml of N hydrochloric acid and the mixture was vacuum filtered. The filtrate was decanted and the aqueous phase was extracted with methylene chloride. The organic phase was washed with water, dried and vacuum filtered. The filtrate was evaporated to dryness to obtain 4.58 g of raw anti isomer of 3-acetylthiomethyl-7-[{2 -(2-tritylamino-4-thiazolyl)-2-methoxyiminoacetyl}amino]-ceph-3-eme-4-carboxylic acid.

reactant | 2-(2-tritylamino-4-thiazolyl)-2-methoxyimino-acetic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)O)=NOC | C25H21N3O3S
reactant | N-methyl-morpholine | 0.55 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.65 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 7-amino-3-acetylthiomethyl-ceph-3-eme-4-carboxylic acid | 1.44 g | NC1[C@@H]2N(C(=C(CS2)CSC(C)=O)C(=O)O)C1=O | C10H12N2O4S2
solvent | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahyrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-acetylthiomethyl-7-[{2 -(2-tritylamino-4-thiazolyl)-2-methoxyiminoacetyl}amino]-ceph-3-eme-4-carboxylic acid | C(C)(=O)SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=NOC)C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C35H31N5O6S3
